US06610688B2
PBPB (2.8 g, 7.8 mmol) was added portionwise to the (3-chloro-4-fluoro-phenyl)-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine (1.08 g, 3.9 mmol) suspended in tert-butanol (20 mL) and acetic acid (10 mL). After stirring at room temperature for 18 hours, to the mixture was added zinc dust (760 mg, 11.7 mmol) portionwise and stirring was continued for overnight. The precipitate was filtered off and the filtrate was concentrated. The residue was triturated with little water and the precipitate was collected by vacuum filtration, washed with little ethyl acetate and dried to give 1.12 g (98%) of 4-(3-chloro-4-fluoro-phenylamino)-7-methyl-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one as a tan colored solid. 1H NMR (DMSO-d6) 9.07 (s, 1H, NH), 8.42 (s, 1H), 8.01 (d, J=2.6 & 7.2 Hz, 1H) 7.56 (m, 1H), 7.34 (t,J=9.1 Hz, 1H), 3.48 (s, 2H, CH2), 3.07 (s, 3H, CH3).

reactant | PBPB | 7.8 mmol, 2.8 g | C1=CC(=CC=C1C(=O)CBr)Br | C8H6Br2O
reactant | (3-chloro-4-fluoro-phenyl)-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | 3.9 mmol, 1.08 g | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)N(C=C2)C | C13H10ClFN4
solvent | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 11.7 mmol, 760 mg | [Zn] | Zn
product | 4-(3-chloro-4-fluoro-phenylamino)-7-methyl-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 1.12 g, 98% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)N(C(C2)=O)C | C13H10ClFN4O
